US06630492B1
2-Methyl-butyric Acid 8-[2-(1-Benzyl-6-oxo-1,6-dihydro-pyridin-2-yl)-ethyl]-3,7-dimethyl-1,2,3,7,8,8a-hexahydro-naphthalen-1-yl Ester
To a stirred solution of 200 mg (0.32 mmol) 2-methyl-butyric acid 8-[6-benzylcarbamoyl-5-(tert.-butyl-dimethyl-silanyloxy)-3-oxo-hexyl]-3,7-dimethyl-1,2,3,7,8,8a-hexahydro-naphthalen-1-yl ester in 5 ml methylene chloride are added 0.3 g (2.6 mmol) trifluoroacetic acid. After 2 hours at room temperature the reaction mixture is quenched with saturated aqeous sodium bicarbonate. The aqueous phase is separated and extracted twice with ethyl acetate. The combined organic phases are dried over sodium sulfate and the solvent is evaporated. The residue is chromatographed over silica gel (hexane/ethyl acetate 7/3 to 2/3) affording the title compound as a white powder foam. MS (FAB) m/z 480 ([M+Li]+)

reactant | 2-methyl-butyric acid 8-[6-benzylcarbamoyl-5-(tert.-butyl-dimethyl-silanyloxy)-3-oxo-hexyl]-3,7-dimethyl-1,2,3,7,8,8a-hexahydro-naphthalen-1-yl ester | 0.32 mmol, 200 mg | C(C1=CC=CC=C1)NC(=O)CC(CC(CCC1C(C=CC2=CC(CC(C12)OC(C(CC)C)=O)C)C)=O)O[Si](C)(C)C(C)(C)C | C37H57NO5Si
reactant | trifluoroacetic acid | 2.6 mmol, 0.3 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-Methyl-butyric Acid 8-[2-(1-Benzyl-6-oxo-1,6-dihydro-pyridin-2-yl)-ethyl]-3,7-dimethyl-1,2,3,7,8,8a-hexahydro-naphthalen-1-yl Ester | C(C1=CC=CC=C1)N1C(=CC=CC1=O)CCC1C(C=CC2=CC(CC(C12)OC(C(CC)C)=O)C)C | C31H39NO3
